### PR TITLE
[Merged by Bors] - feat: port Data.List.BigOperators.Basic

### PR DESCRIPTION
**Pull request by jcommelin**
- Initial file copy from mathport
- Mathbin -> Mathlib; add import to Mathlib.lean

### CODE REVIEW

**Comment by semorrison** [comment]
The remaining errors are from `to_additive` not finding additivized versions of auxiliary lemmas:
```
./././Mathlib/Data/List/BigOperators/Basic.lean:139:2: error: application type mismatch
  Mathlib.Algebra.Group.Units._auxLemma.22
argument has type
  AddMonoid M
but function has type
  ∀ [inst : Monoid M], IsUnit 1 = True
./././Mathlib/Data/List/BigOperators/Basic.lean:147:2: error: (kernel) unknown constant 'List.sum_isAddUnit'
./././Mathlib/Data/List/BigOperators/Basic.lean:232:2: error: application type mismatch
  Mathlib.Algebra.Group.Commute._auxLemma.8
argument has type
  AddZeroClass M
but function has type
  ∀ [inst : MulOneClass M] (a : M), Commute a 1 = True
./././Mathlib/Data/List/BigOperators/Basic.lean:242:2: error: (kernel) unknown constant 'AddCommute.list_sum_right'
./././Mathlib/Data/List/BigOperators/Basic.lean:400:2: error: application type mismatch
  Mathlib.Algebra.Group.Basic._auxLemma.9
argument has type
  InvolutiveNeg G
but function has type
  ∀ [inst : InvolutiveInv G], Function.Involutive Inv.inv = True
```
@fpvandoorn, would you have a moment to look at this?

**Comment by fpvandoorn** [comment]
Everything that mentions `_auxLemma` is almost certainly #1149, fixed by #1314

File: Mathlib/Data/List/BigOperators/Basic.lean [hunk 1]
```diff
@@ -27,50 +27,60 @@ section Monoid
...
-  (List.recOn l rfl) fun a l ihl => by rw [prod_cons, foldr_cons, ihl]
+theorem prod_eq_foldr : ∀ {l : List M}, l.prod = foldr (· * ·) 1 l
+  | [] => rfl
+  | cons a l => by rw [prod_cons, foldr_cons, prod_eq_foldr]
 #align list.prod_eq_foldr List.prod_eq_foldr
 
-@[simp, to_additive]
-theorem prod_repeat (a : M) (n : ℕ) : (repeat a n).Prod = a ^ n :=
+@[to_additive (attr := simp)]
+theorem prod_replicate (a : M) (n : ℕ) : (List.replicate n a).prod = a ^ n :=
```
Comment (hrmacbeth) [inline Mathlib/Data/List/BigOperators/Basic.lean:74]: This seems not to be in the mathport output -- intentionally added?  Is `replicate` newly added, some variant of `repeat`?

File: Mathlib/Data/List/BigOperators/Basic.lean [hunk 2]
```diff
@@ -79,105 +89,103 @@ theorem prod_repeat (a : M) (n : ℕ) : (repeat a n).Prod = a ^ n :=
...
     (hf' : f 1 1 = 1) (f₁ : ι → M) (f₂ : ι → N) :
-    (l.map fun i => f (f₁ i) (f₂ i)).Prod = f (l.map f₁).Prod (l.map f₂).Prod :=
+    (l.map fun i => f (f₁ i) (f₂ i)).prod = f (l.map f₁).prod (l.map f₂).prod :=
   by
-  simp only [Prod, foldl_map]
-  convert l.foldl_hom₂ (fun a b => f a b) _ _ _ _ _ fun a b i => _
-  · exact hf'.symm
-  · exact hf _ _ _ _
+  simp only [prod, foldl_map]
+  rw [← l.foldl_hom₂ (fun a b => f a b), hf']
```
Comment (hrmacbeth) [inline Mathlib/Data/List/BigOperators/Basic.lean:116]: Maybe add a porting note about the broken `convert` since this comes up a lot and we'll want to fix it eventually.

File: Mathlib/Data/List/BigOperators/Basic.lean [hunk 3]
```diff
@@ -79,105 +89,103 @@ theorem prod_repeat (a : M) (n : ℕ) : (repeat a n).Prod = a ^ n :=
...
     rfl
-  · convert (prod_repeat _ _).symm
-    rw [eq_repeat]
-    use l.length_map _
-    intro
-    rw [mem_map]
-    rintro ⟨_, _, rfl⟩
-    rfl
-  · rw [l.map_id]
+  · rw [prod_eq_pow_card _ (-1:α) _, length_map]
```
Comment (hrmacbeth) [inline Mathlib/Data/List/BigOperators/Basic.lean:135]: Ditto with broken convert here.

File: Mathlib/Data/List/BigOperators/Basic.lean [hunk 4]
```diff
@@ -273,49 +285,54 @@ theorem Sublist.prod_le_prod' [Preorder M] [CovariantClass M M (Function.swap (
...
     (exists_mem_of_ne_nil l hl).imp fun i hi => ⟨hi, hlt i hi⟩
 #align list.prod_lt_prod_of_ne_nil List.prod_lt_prod_of_ne_nil
 
+set_option linter.deprecated false in
 @[to_additive sum_le_card_nsmul]
 theorem prod_le_pow_card [Preorder M] [CovariantClass M M (Function.swap (· * ·)) (· ≤ ·)]
     [CovariantClass M M (· * ·) (· ≤ ·)] (l : List M) (n : M) (h : ∀ x ∈ l, x ≤ n) :
-    l.Prod ≤ n ^ l.length := by simpa only [map_id'', map_const, prod_repeat] using prod_le_prod' h
+    l.prod ≤ n ^ l.length := by
+      have := prod_le_prod' h
```
Comment (hrmacbeth) [inline Mathlib/Data/List/BigOperators/Basic.lean:327]: Could you also document the broken simp with a porting note?

**Review by hrmacbeth — COMMENTED** [review]
bors d+

File: Mathlib/Data/List/BigOperators/Basic.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Data/List/BigOperators/Basic.lean:74]: https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/Basic.html#List.replicate
